US05804575
Preparation of betulinic acid acetate (7).
The method of claim 12 wherein the overall yield of the α-isomer of betulinic acid from betulin is greater than 50%.

reactant | betulinic acid | CC(=C)[C@@H]1CC[C@]2([C@H]1[C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC2)C)C)(C)C)O)C)C(=O)O | C30H48O3
reactant | betulin | CC(=C)[C@@H]1CC[C@]2([C@H]1[C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC2)C)C)(C)C)O)C)CO | C30H50O2
product | betulinic acid acetate | CC(=C)C1CCC2(C1C3CCC4C5(CCC(C(C5CCC4(C3(CC2)C)C)(C)C)OC(=O)C)C)C(=O)O | C32H50O4
